US08980888B2
<Step 1> Synthesis of methyl 4-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole-5-carboxylate
A 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane complex (0.37 g) and potassium acetate (3.5 g) were added to a dimethyl sulfoxide (10 ml) solution of 4-bromo-1-methyl-1H-pyrazole-5-carboxylate (2.0 g) and 5,5,5′,5′-tetramethyl-2,2′-bi(1,3,2-dioxaborinane) (4.1 g). The obtained mixture was stirred in a nitrogen atmosphere at 100° C. for 4 hours. Thereafter, the reaction solution was cooled, and water (50 ml) was then added thereto, followed by extraction with ethyl acetate (100 ml) twice. Organic layers were gathered. The gathered organic layer was successively washed with water and a saturated saline, and was then dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure, and the obtained residue was then purified by silica gel column chromatography (silica gel: eluent; heptane:ethyl acetate=90:10-40:60), so as to obtain the title compound (1.0 g) in the form of a brown liquid.

reactant | potassium acetate | 3.5 g | C(C)(=O)[O-].[K+]
reactant | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
reactant | 4-bromo-1-methyl-1H-pyrazole-5-carboxylate | 2.0 g | BrC=1C=NN(C1C(=O)[O-])C
reactant | 5,5,5′,5′-tetramethyl-2,2′-bi(1,3,2-dioxaborinane) | 4.1 g | CC1(COB(OC1)B1OCC(CO1)(C)C)C | C10H20B2O4
solvent | water | 50 ml | O | H2O
product | methyl 4-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole-5-carboxylate | 1.0 g | CC1(COB(OC1)C=1C=NN(C1C(=O)OC)C)C | C11H17BN2O4
